US05107010
1-(4-hydroxy-3-oxo-2,6,6-trimethyl-1-cyclohexen-1-yl)-3-methyl-5-benzenesulfonyl-1,3-pentadiene
A solution of 1-(4-hydroxy-3-oxo-2,6,6-trimethyl-1-cyclohexen-1-yl)-3-methyl-3-trimethylsiloxy-1,4-pentadiene (200 mg, 0.62 mmol) in 1 ml glacial acetic acid is added benzenesulfinic acid, sodium salt (153 mg, 0.93 mmoles) and the mixture is stirred overnight at ambient temperature. The mixture is concentrated in vacuo and the remanecens is taken up in 10 ml diethylether and 10 ml 1M sodium hydroxide. The aqueous layer is separated and extracted twice with 10 ml diethylether. The combined ether phases are dried and concentrated in vacuo yielding the title compound as a slightly yellow oil.

reactant | 1-(4-hydroxy-3-oxo-2,6,6-trimethyl-1-cyclohexen-1-yl)-3-methyl-3-trimethylsiloxy-1,4-pentadiene | 0.62 mmol, 200 mg | OC1C(C(=C(C(C1)(C)C)C=CC(C=C)(O[Si](C)(C)C)C)C)=O | C18H30O3Si
reactant | benzenesulfinic acid | C1(=CC=CC=C1)S(=O)O | C6H6O2S
reactant | sodium | 0.93 mmoles, 153 mg | [Na] | Na
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 1-(4-hydroxy-3-oxo-2,6,6-trimethyl-1-cyclohexen-1-yl)-3-methyl-5-benzenesulfonyl-1,3-pentadiene | OC1C(C(=C(C(C1)(C)C)C=CC(=CCS(=O)(=O)C1=CC=CC=C1)C)C)=O | C21H26O4S
